US05317023
1,1-Dimethylethyl 2-(3-bromo-5-methyl-2-benzofuranyl)benzoate
A mixture of 2-(3-bromo-5-methyl-2-benzofuranyl)benzoic acid (described in EP-A-0434249) (2.0 g), p-toluenesulphonyl chloride (2.5 g), tert-butanol (10 ml) and pyridine (3 ml) was stirred at 0° C. and allowed to warm to room temperature. Stirring was continued for 72 hours. The mixture was then diluted with ether (100 ml) and washed with 2M hydrochloric acid (75 ml) followed by an aqueous solution of 1M sodium bicarbonate (75 ml). The aqueous solutions were further extracted with ethyl acetate (100 ml) and the combined organic extracts were dried and evaporated in vacuo. Purification by flash column chromatography eluting with dichloromethane:hexane (3:7) gave the title compound (0.6 g) as a colourless gum.

reactant | 2-(3-bromo-5-methyl-2-benzofuranyl)benzoic acid | 2.0 g | BrC1=C(OC2=C1C=C(C=C2)C)C2=C(C(=O)O)C=CC=C2 | C16H11BrO3
reactant | p-toluenesulphonyl chloride | 2.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1,1-Dimethylethyl 2-(3-bromo-5-methyl-2-benzofuranyl)benzoate | 0.6 g | BrC1=C(OC2=C1C=C(C=C2)C)C2=C(C(=O)OC(C)(C)C)C=CC=C2 | C20H19BrO3
